US04407814
61 mg. of 1-(3-trifluoromethyl-4-chlorophenyl)-5-imino-4,4-dimethyl-2-imidazolidinone are dissolved in 4 ml. of 0.1-N aqueous hydrochloric acid, and 2 ml. of water are added. The white needles which gradually precipitate are removed by filtration after 20 hours, washed with water and dried under greatly reduced pressure at 65° for 2 hours. 3-(3-trifluoromethyl-4-chlorophenyl)-5,5-dimethylhydantoin, which melts at 156°-157.5°, is obtained.

reactant | 1-(3-trifluoromethyl-4-chlorophenyl)-5-imino-4,4-dimethyl-2-imidazolidinone | FC(C=1C=C(C=CC1Cl)N1C(NC(C1=N)(C)C)=O)(F)F | C12H11ClF3N3O
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | 3-(3-trifluoromethyl-4-chlorophenyl)-5,5-dimethylhydantoin | FC(C=1C=C(C=CC1Cl)N1C(NC(C1=O)(C)C)=O)(F)F | C12H10ClF3N2O2
